US03962224
A solution of 2-oxo-propyl N-(p-methoxybenzyloxycarbonyl-diethylphosphonomethyl)thioformimidate (59 mg.) in acetone (0.5 ml.) is stirred with powdered potassium carbonate (25 mg.) for 21 hours at room temperature and under a nitrogen atmosphere. The resulting mixture is diluted with methylene chloride and filtered. Evaporation of the filtrate in vacuo yields an oil which is dissolved in carbon tetrachloride (4 ml.), washed with water (2 × 2 ml.) and saturated brine (4 ml.), dried over magnesium sulfate, and evaporated in vacuo to yield p-methoxybenzyl 5-methyl-6H-1,3-thiazine-4-carboxylate (35 mg.) as a yellow oil.

reactant | 2-oxo-propyl N-(p-methoxybenzyloxycarbonyl-diethylphosphonomethyl)thioformimidate | 59 mg | COC1=CC=C(COC(=O)C(N=CSCC(C)=O)P(=O)(OCC)OCC)C=C1 | C18H26NO7PS
reactant | potassium carbonate | 25 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 0.5 ml | CC(=O)C | C3H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 4 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | p-methoxybenzyl 5-methyl-6H-1,3-thiazine-4-carboxylate | 35 mg | CC1=C(N=CSC1)C(=O)OCC1=CC=C(C=C1)OC | C14H15NO3S
